US05665748
In substantially the same manner as in Example 1, (E,E)-5-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]phenyl]-2,4-pentadien-1-al was allowed to react with 2,4-oxazolidinedione to give 5-[5-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]phenyl]-2,4-pentadienylidene]-2,4-oxazolidinedione. The yield was 31%. Recrystallization from dichloromethane-methanol gave yellow needles, m.p.209°-211° C.

reactant | (E,E)-5-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]phenyl]-2,4-pentadien-1-al | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=CC=C(C=C1)/C=C/C=C/C=O | C23H21NO3
reactant | 2,4-oxazolidinedione | O1C(NC(C1)=O)=O | C3H3NO3
product | 5-[5-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]phenyl]-2,4-pentadienylidene]-2,4-oxazolidinedione | yield was 31% | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=CC=C(C=C1)C=CC=CC=C1C(NC(O1)=O)=O | C26H22N2O5
